US06537948B1
A mixture of 0.50 g of 4-chloro-2-fluoro-5-{2-(methoxycarbonyl)methoxy-3-pyridyloxy}aniline, 0.28 g of ethyl trifluoroacetoacetate and 10 ml of toluene was subjected to azeotropic reaction with removing ethanol by passing through molecular sieves 5A for 3 hours. After cooling, the reaction solution was concentrated to obtain 0.71 g of N-[4-chloro-2-fluoro-5-{2-(methoxycarbonyl)methoxy-3-pyridyloxy}phenyl]trifluoroacetoacetamide.

reactant | 4-chloro-2-fluoro-5-{2-(methoxycarbonyl)methoxy-3-pyridyloxy}aniline | 0.50 g | ClC1=CC(=C(N)C=C1OC=1C(=NC=CC1)OCC(=O)OC)F | C14H12ClFN2O4
reactant | ethyl trifluoroacetoacetate | 0.28 g | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | C(C)O | C2H6O
product | N-[4-chloro-2-fluoro-5-{2-(methoxycarbonyl)methoxy-3-pyridyloxy}phenyl]trifluoroacetoacetamide | 0.71 g | ClC1=CC(=C(C=C1OC=1C(=NC=CC1)OCC(=O)OC)NC(CC(=O)C(F)(F)F)=O)F | C18H13ClF4N2O6
